* bank-bleed: 0.00047 F from 525 V into 8800 ohm
CB p 0 0.00047 ic=525
RD p 0 8800
.tran 0.0033475 13.39 0 0.006695 uic
.control
set filetype=ascii
run
wrdata bleed-30kw.out v(p)
quit
.endc
.end