* bank-bleed: 0.0000198 F from 500 V into 8800 ohm
CB p 0 0.0000198 ic=500
RD p 0 8800
.tran 0.00026136000000000003 1.0454400000000001 0 0.0005227200000000001 uic
.control
set filetype=ascii
run
wrdata bleed-30kw.out v(p)
quit
.endc
.end